US06136810
Magnesium (4.82 g, 200 mmol) was added to a tetrahydrofuran (300 ml) solution of 3-bromotoluene (35.1 g, 200 mmol), and the mixture was stirred at room temperature. Since spontaneous exothermic reaction occurred, the stirring was continued until the exothermicity was ceased. The reaction solution was cooled to -40° C., mixed with 2-chloro-6-methylnicotinic acid (11.6 g, 68 mmol) and then stirred for 16 hours at room temperature. The reaction solution was mixed with saturated ammonium chloride aqueous solution and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, magnesium sulfate was removed by filtration and then the filtrate was concentrated under a reduced pressure. Thereafter, the resulting residue was purified by silica gel column chromatography (hexane-ethyl acetate) to give 2-chloro-6-methyl-3-(3-methylbenzoyl)pyridine (8.70 g, 52%) as a pale yellow oily material.

reactant | Magnesium | 200 mmol, 4.82 g | [Mg] | Mg
reactant | 3-bromotoluene | 200 mmol, 35.1 g | BrC=1C=C(C=CC1)C | C7H7Br
reactant | 2-chloro-6-methylnicotinic acid | 68 mmol, 11.6 g | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-chloro-6-methyl-3-(3-methylbenzoyl)pyridine | 8.70 g, 52% | ClC1=NC(=CC=C1C(C1=CC(=CC=C1)C)=O)C | C14H12ClNO
